US05073629
A mixture of methyl 6-dimethylamino-4,4-diphenyl-2-heptenoate (60 mg), 10% Pd/C (10 mg), and methanol was hydrogenated at room temperature for 18 hours. The mixture was filtered through a short pad of celite, and the filtrate was rotary evaporated to give methyl 6-dimethylamino-4,4-diphenyl-heptanoate, as a crude material which was then dried in vacuo.

reactant | methyl 6-dimethylamino-4,4-diphenyl-2-heptenoate | 60 mg | CN(C(CC(C=CC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C22H27NO2
catalyst | Pd/C | 10 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 6-dimethylamino-4,4-diphenyl-heptanoate | CN(C(CC(CCC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C22H29NO2
